US04457931
1-phenyl-4-(2-morpholinoethyl)-2-methylpiperazine (9)
In the same manner as described in Example 1, N-(2-chloroethyl)morpholine is reacted with 1-phenyl-2-methylpiperazine. The trihydrochloride has a melting point 288°-290° (from methanol); Rf=0.63 (MeOH-conc. NH4OH 97:3); IR (nujol) νmax: 2420, 1500, 1405, 1265, 1060, 770, 695 cm-1 ; 1H-NMR (D2O; (CH3)3Si(CD2)2COONa): 1.05 (d, J=6 Hz; 3H; 2.70-4.20 (m; 19H); 7.47 (s; 5H).

reactant | N-(2-chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
reactant | 1-phenyl-2-methylpiperazine | C1(=CC=CC=C1)N1C(CNCC1)C | C11H16N2
reactant | NH4OH | [NH4+].[OH-]
solvent | MeOH | CO | CH4O
product | 1-phenyl-4-(2-morpholinoethyl)-2-methylpiperazine | C1(=CC=CC=C1)N1C(CN(CC1)CCN1CCOCC1)C | C17H27N3O
